US07141596B2
Step 1. (S)-2-Phenyl-1-carbamoyl-ethyl-carbamic acid tert-butyl ester
A solution of 9-B (24.8 g, 80.2 mmol) in 1,4-dioxane (388 mL) was treated with N,N-dimethylformamide (68 mL), pyridine (19.5 mL, 240 mmol), di-tert-butyldicarbonate (22.8 g, 104 mmol), and ammonium bicarbonate (12.7 g, 160 mmol). The reaction mixture was stirred at 25° C. for 60 h. The 1,4-dioxane was removed in vacuo and the reaction mixture was diluted with ethyl acetate (1.2 L) and washed with 0.1 N HCl (4×300 mL). The combined aqueous layers were re-extracted with ethyl acetate (2×200 mL). The combined organic extracts were washed with brine (2×150 mL), dried with Na2SO4, filtered, and concentrated to give the desired product (26 g, 99%) as an off-white solid. LCMS found for C14H21BN2O5Na (M+Na)+: m/z=331.

reactant | N,N-dimethylformamide | 68 mL | CN(C=O)C | C3H7NO
reactant | pyridine | 240 mmol, 19.5 mL | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyldicarbonate | 104 mmol, 22.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium bicarbonate | 160 mmol, 12.7 g | C([O-])(O)=O.[NH4+]
reactant | 1,4-dioxane | 388 mL | O1CCOCC1 | C4H8O2
product | (S)-2-Phenyl-1-carbamoyl-ethyl-carbamic acid tert-butyl ester | 26 g, 99% | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C(N)=O)=O | C14H20N2O3
